US05616610
a) (R)-3-(N-Cyclohexylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran
To a solution of (R)-3-amino-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran (0.45 g, 2.2 mmol), cyclohexanone (0.7 g, 7.2 mmol) and HOAc (0.14 g, 2.3 mmol) in methanol (25 mL) was NaCNBH3 (0.5 g, 8 mmol) added in portions at room temperature. The solution was stirred at room temperature overnight to give a quantitative yield of the title compound. GC/MS (70 eV) M=279 (30%).

reactant | (R)-3-amino-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | 2.2 mmol, 0.45 g | N[C@H]1COC2=C(C1)C(=CC=C2F)OC | C10H12FNO2
reactant | cyclohexanone | 7.2 mmol, 0.7 g | C1(CCCCC1)=O | C6H10O
reactant | HOAc | 2.3 mmol, 0.14 g | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 8 mmol, 0.5 g | [BH3-]C#N.[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (R)-3-(N-Cyclohexylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | quantitative yield | C1(CCCCC1)N[C@H]1COC2=C(C1)C(=CC=C2F)OC | C16H22FNO2
